Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Observation and pain control s/p thoracoscopy  
 
Major Surgical or Invasive Procedure:
Right thoracoscopy with pleural biopsy, talc pleurodesis, and 
tunneled pleural catheter placement ___

 
History of Present Illness:
Ms. ___ is a ___ never-smoker with EGFR mutated stage 
IV lung cancer complicated by recurrent right malignant pleural 
effusion s/p multiple thoracentesis for fluid removal and now 
s/p right thoracoscopy with pleural biopsy, talc pleurodesis, 
tunneled pleural catheter placement on ___, who is being 
admitted to medicine postoperatively for observation and pain 
control.  
 
On arrival to the floor, pt reports feeling well. Reports 
improvement in pain control w/PCA. Denies dyspnea.  
 
Past Medical History:
LUNG CANCER AS BELOW  
HERPES SIMPLEX I  
MENOPAUSE  
SPHENOID SINUSITIS  
SQUAMOUS CELL CARCINOMA s/p excision x 2  
Oncologic history is as follows:  
 - ___: went to Urgent Care given ongoing cough and found to 
have RUL mass on imaging  
 - ___: Had FDG avid 3.1 cm RUL mass with minimal increase 
in moderate right non hemorrhagic pleural effusion and extensive 
military nodules and focal FDG uptake along T10 vertebral body 
with associate sclerotic lesion  
 - ___: IP performed ___ with cytology showing lung 
adenocarcinoma  
 - ___: started gefitinib  
 - ___: ___ #2 for symptomatic recurrent pleural 
effusion, 800cc removed  
 
Social History:
___
Family History:
Father: colon cancer in his ___, active smoker who quit ___ years 
before diagnosis and may have had asbestos exposure  
Mother: skin cancers, when much older was found to have likely 
metastatic disease in her lungs (unknown primary)  
Sister: breast cancer at ___, died of pancreatic cancer at ___, MS 
 
Sister: ___ Macroglobulinemia  
Sister: melanoma  
Brother: melanoma  
Maternal uncle: ___ Macroglobulinemia  
 
Physical Exam:
==============
ADMISSION
==============
Vitals: 98.1 PO 118 / 71 L Lying 76 18 98 3L  
General: no acute distress  
HEENT: JVP not elevated  
Lungs: clear to auscultation anteriorly, no wheezes, rales, 
rhonchi  
CV: RRR, normal S1 S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present  
Ext: Warm, well perfused, no edema  
Skin: Without rashes or lesions  
Neuro: Grossly intact.  

=============
DISCHARGE
=============
Vitals:  98.3 115/68 81 18 92% 1L 
I/Os: 300/375 Chest tube 100 cc   Pleurex ___ cc
General: no acute distress  
HEENT: JVP not elevated  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: RRR, normal S1 S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present  
Ext: Warm, well perfused, no edema  
Skin: Without rashes or lesions  
Neuro: Grossly intact
 
Pertinent Results:
===============
ADMISSION LABS
===============
___ 05:30AM BLOOD WBC-23.9*# RBC-4.80 Hgb-13.9 Hct-43.3 
MCV-90 MCH-29.0 MCHC-32.1 RDW-12.4 RDWSD-41.0 Plt ___
___ 05:30AM BLOOD Glucose-154* UreaN-16 Creat-0.6 Na-141 
K-4.8 Cl-103 HCO3-25 AnGap-18
___ 05:30AM BLOOD Calcium-9.1 Phos-4.4 Mg-1.9

================
DISCHARGE LABS
================
___ 06:15AM BLOOD WBC-16.7* RBC-4.73 Hgb-13.0 Hct-41.5 
MCV-88 MCH-27.5 MCHC-31.3* RDW-12.5 RDWSD-40.4 Plt ___
___ 06:15AM BLOOD Glucose-89 UreaN-15 Creat-0.5 Na-139 
K-3.5 Cl-99 HCO3-26 AnGap-18
___ 06:15AM BLOOD Calcium-8.6 Phos-2.5* Mg-2.1

========
IMAGING
========
-CXR ___: In comparison to the prior radiographs, there is 
been increased in the right sided opacities, worrisome for 
pneumonia versus asymmetric pulmonary edema versus 
reaccumulating pleural effusion.  Right-sided chest tube has 
been slightly retracted from the prior study.  Left lung 
essentially remains clear. 

-CXR ___: In comparison with the study of ___, there 
is no change in the degree of pleural fluid with chest tube in 
place.  No evidence of pneumothorax.  No change in the 
ill-defined opacity in the right upper lobe which was avid on 
PET-CT.  The remainder the study is unchanged. 

=========
MICRO
=========
___ 3:55 pm PLEURAL FLUID      RIGHT PLEURALEFFUSION. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      NO FUNGAL ELEMENTS SEEN. 

 
Brief Hospital Course:
Ms. ___ is a ___ never-smoker with EGFR mutated stage 
IV lung cancer complicated by recurrent right malignant pleural 
effusion s/p multiple thoracentesis for fluid removal and now 
s/p right thoracoscopy with pleural biopsy, talc pleurodesis, 
tunneled pleural catheter placement on ___, who is being 
admitted to medicine postoperatively for observation and pain 
control. The patient has a history of Stage IV Lung cancer with 
recurrent pleural effusions. She underwent right thoracoscopy 
with pleural biopsy, talc pleurodesis, and tunneled pleural 
catheter placement on ___. She initially required O2, but was 
quickly weaned to room air. She was initially treated with 
standing acetaminophen 1000 mg q6h and dilaudid PCA, however the 
dilaudid PCA made her extremely nauseous with several episodes 
of emesis. She was transitioned to a morphine PCA which also 
made her nauseous. Her pain improved and she was able to be 
weaned off of morphine. Pleural biopsy pending on discharge. Her 
outpatient oncologist recommended holding home gefitinib for 
better wound healing until she returned home. She was found to 
have a leukocytosis due to inflammation in the setting of talc 
pleurodesis which started trending down on discharge. 

====================
TRANSITIONAL ISSUES
====================
- Patient being discharged with PleurX catheter which needs to 
be drained daily (being sent home with ___ services for this)
- Pleural biopsy results pending on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. gefitinib 250 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth q8h PRN Disp #*15 
Tablet Refills:*0 
3.  gefitinib 250 mg oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Recurrent Right Pleural Effusion
Right Talc Pleurodesis
Right Pleurx Catheter Placement

Secondary Diagnosis:
Stage IV lung cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for pain management after you 
had the lung procedure performed by Dr. ___.  

The procedure you had is called a Pleurx catheter placement, 
which means that a small tube (or catheter) was threaded into 
your chest to drain fluid.

You are being sent home with a Pleurx Catheter Kit. Please 
follow all instructions and information in the instruction 
folder of this kit.  If you have further questions please call 
the office at ___. We will set you up with home 
nursing to help take care of your Pleurx which should be drain 
once daily for the next week. 

Please take 1000 mg Tylenol every 6 hours as needed for pain. Do 
not exceed more than 4 grams in 24 hours. You may go back to 
your usual activities as well as eat and drink whatever you 
like. If you have bleeding or drainage from the site, press over 
the area with a clean washcloth. If the bleeding does not stop, 
get help right away.

When you go home, please continue to use the incentive 
spirometer multiple times per day to keep your lungs open. 

Please restart Gefitinib when you return home. Please follow up 
at the appointments scheduled for you (see below).

It was a pleasure meeting and taking care of you when you were 
in the hospital.

-Your ___ Team
 
Followup Instructions:
___